US04000143
A solution of 2-(o-formamidophenethyl)pyridine (36.1 g., 0.159 mole) and iodoethane (30.0 g., 0.191 mole) in CH3CN (450 ml.) heated at reflux for 18 hr., cooled and diluted to incipient turbidity provides 1-ethyl-2-(o-formamidophenethyl)pyridinium iodide, yield 44.8 g. (74%), m.p. 155° - 157° C.

reactant | 2-(o-formamidophenethyl)pyridine | 0.159 mole, 36.1 g | C(=O)NC1=C(CCC2=NC=CC=C2)C=CC=C1 | C14H14N2O
reactant | iodoethane | 0.191 mole, 30.0 g | ICC | C2H5I
solvent | CH3CN | 450 ml | CC#N | C2H3N
product | 1-ethyl-2-(o-formamidophenethyl)pyridinium iodide | [I-].C(C)[N+]1=C(C=CC=C1)CCC1=C(C=CC=C1)NC=O | InChI=1S/C16H18N2O.HI/c1-2-18-12-6-5-8-15(18)11-10-14-7-3-4-9-16(14)17-13-19;/h3-9,12-13H,2,10-11H2,1H3;1H
